US08791267B2
To a stirred suspension of N-[4-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-carbonyl)-phenyl]-acetamide synthesized above (1.75 g, 4.44 mmol) in ethanol (40 mL) was added con. HCl (40 mL). The reaction was refluxed for 2 h, cooled to room temperature, filtered, washed with water than hexanes to afford 0.82 g (48%) of (4-amino-phenyl)-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-methanone hydrochloride as light yellow solid.

reactant | N-[4-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-carbonyl)-phenyl]-acetamide | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)C(=O)C1=CC=C(C=C1)NC(C)=O)F | C22H17ClFNO3
reactant | HCl | 40 mL | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | (4-amino-phenyl)-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-methanone hydrochloride | 0.82 g, 48% | Cl.NC1=CC=C(C=C1)C(=O)C=1C(=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)F | InChI=1S/C20H15ClFNO2.ClH/c1-25-17-10-9-16(20(24)12-5-7-15(23)8-6-12)19(22)18(17)13-3-2-4-14(21)11-13;/h2-11H,23H2,1H3;1H
